US06284796B1
6-(phenyl)-2-naphthalenecarbonitrile
A solution of Example 121B (300 mg, 1 mmol), palladium (II) acetate (22 mg, 0.1 mmol) and 1-1′-bis(diphenyphosphino)ferrocene (111 mg, 0.2 mmol) was stirred in DMF (3 mL) for 15 minutes, treated with Cs2CO3 (813 mg, 2.5 mmol) and phenylboronic acid (228 mg, 1.5 mmol), stirred for 20 minutes at 80° C., cooled, treated with pH 7 buffer (10 mL), and extracted with diethyl ether. The ether extracts were dried (MgSO4), concentrated, filtered, and purified on silica gel with 10% ethyl acetate/hexane to provide 140 mg of the title compound as a white solid.

reactant | Cs2CO3 | 2.5 mmol, 813 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | phenylboronic acid | 1.5 mmol, 228 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 0.1 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(phenyl)-2-naphthalenecarbonitrile | 140 mg | C1(=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C#N | C17H11N
